US07294644B2
Cyclohexylmethyl-5-(2,4-dichloro-5-fluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid (1-hydroxy-cyclohexylmethyl)-amide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2,4-dichloro-5-fluorophenyl)-ethanone as compound of formula S, c-cyclohexyl-methylamine as R3—(CH2)m—NH2 and 1-aminomethyl-1-cyclohexanol as R1R2NH, MS (ISP) 495.5 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2,4-dichloro-5-fluorophenyl)-ethanone | BrCC(=O)C1=C(C=C(C(=C1)F)Cl)Cl | C8H4BrCl2FO
reactant | 1-aminomethyl-1-cyclohexanol | NCC1(CCCCC1)O | C7H15NO
product | Cyclohexylmethyl-5-(2,4-dichloro-5-fluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid (1-hydroxy-cyclohexylmethyl)-amide | OC1(CCCCC1)CNC(=O)C1=C(N(C(=C1)C1=C(C=C(C(=C1)F)Cl)Cl)CC1CCCCC1)C | C26H33Cl2FN2O2
